US07858796B2
(35) 3-(1-{[3-(dimethylamino)propyl]sulfonyl}-4-piperidinyl)-5-(3-formylphenyl)-1H-indole-7-carboxamide
To a solution of 3-(1-{[3-(dimethylamino)propyl]sulfonyl}-4-piperidinyl)-5-[3-(hydroxymethyl)phenyl]-1H-indole-7-carboxamide (230 mg, 0.47 mmol) in THF (60 mL) was added MnO2 (1.3 g, 14.05 mmol). The reaction mixture was stirred at room temperature overnight and filtered through a pad of celite after that. The filtrate was collected and concentrated at reduced pressure to give the crude product (150 mg, 65%), which was used in the next step without further purification.

reactant | 3-(1-{[3-(dimethylamino)propyl]sulfonyl}-4-piperidinyl)-5-[3-(hydroxymethyl)phenyl]-1H-indole-7-carboxamide | 0.47 mmol, 230 mg | CN(CCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC(=CC=C1)CO)C(=O)N)C | C26H34N4O4S
solvent | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 14.05 mmol, 1.3 g | O=[Mn]=O
product | 3-(1-{[3-(dimethylamino)propyl]sulfonyl}-4-piperidinyl)-5-(3-formylphenyl)-1H-indole-7-carboxamide | 150 mg, 65% | CN(CCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC(=CC=C1)C=O)C(=O)N)C | C26H32N4O4S
